US07291641B2
31.1) N-(butoxycarbonyl)-β-alanine
A solution containing β-alanine (8.9 g; 0.1 mol) and 100 ml of a 1N solution of sodium hydroxide is cooled down to 10° C. n-butyl chloroformate (13.66 g; 0.1 mol) and 50 ml of a 2N solution of sodium hydroxide are added simultaneously. After stirring for 16 hours at 23° C., approximately 10 ml of a solution of concentrated hydrochloric acid (approximately 11 N) is added in order to adjust the pH to 4-5. The oil obtained is extracted with ethyl acetate (2×50 ml), washed with water then dried over magnesium sulphate. The product crystallizes from isopentane in the form of a white powder (yield of 68%). Melting point: 50.5° C.

reactant | β-alanine | 0.1 mol, 8.9 g | NCCC(=O)O | C3H7NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | n-butyl chloroformate | 0.1 mol, 13.66 g | ClC(=O)OCCCC | C5H9ClO2
reactant | hydrochloric acid | approximately 11 N | Cl | ClH
solvent | isopentane | CCC(C)C | C5H12
product | N-(butoxycarbonyl)-β-alanine | yield of 68% | C(CCC)OC(=O)NCCC(=O)O | C8H15NO4
